data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_415276_1,[C@@:1]([C:4]([N:3]([C:2]([H:15])([H:16])[H:17])[N:5]([H:11])[H:12])=[C:7]([H:18])[H:19])([N:6]([H:13])[H:14])([O:8][H:9])[H:10]>>[C@:1]([N:3]([C:2]([H:15])([H:16])[H:17])[N:5]([H:11])[H:12])([C:4](=[C:7]([H:18])[H:19])[O:8][H:9])([N:6]([H:13])[H:14])[H:10],63.48919500000278
MR_162122_0,[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:3]([N:4]([H:9])[H:10])=[C:7](/[N:6]([H:13])[H:14])[H:15])([N:5]([H:11])[H:12])[H:8]>>[C:1]1([C:2]([H:16])([H:17])[H:18])([H:8])[C:3]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:7]1([N:6]([H:13])[H:14])[H:15],56.03700499998439
MR_648397_1,[C:1]([N:2]([N:3]([H:11])[H:12])[H:9])([N:4]([H:13])[H:14])(/[C:5](=[N:7]/[O:6][H:8])[H:15])[H:10]>>[C:1]1([N:4]([H:13])[H:14])([H:10])[C:5]([N:2]([N:3]([H:11])[H:12])[H:9])([H:15])[N:7]1[O:6][H:8],58.87644249998502
MR_295489_1,[C:1](/[C:3]([N:4]([H:8])[H:9])=[C:5](/[C:2]([H:13])([H:14])[H:15])[H:12])([O:6][H:7])([H:10])[H:11]>>[C:1](=[C:3]([N:4]([H:8])[H:9])[C:5]([C:2]([H:13])([H:14])[H:15])([O:6][H:7])[H:12])([H:10])[H:11],66.75533249999617
MR_125044_0,[C:1](/[C:3](=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])[N:7]=[C:6]([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:1]([C:3]1=[N:7][C:6]([H:16])([H:17])[C:4]1([C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])([H:10])([H:11])[H:12],43.45374750000843
MR_476488_2,[C:1]([C:6]([N:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([N:8]([C:4]([H:18])([H:19])[H:20])[H:9])[H:11])(=[O:7])[H:10]>>[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])(/[C:6](=[N:8]/[C:4]([H:18])([H:19])[H:20])[H:11])([O:7][H:9])[H:10],28.1270599999678
MR_347906_1,[C:1](\[O:3][H:6])(=[N:4]/[C:2](=[O:5])[H:8])[H:7]>>[C:1]1([O:3][H:6])([H:7])[N:4]=[C:2]([H:8])[O:5]1,30.970890000028675
MR_185932_0,[C:1](/[C:3]([C:2]([H:15])([H:16])[H:17])=[N:7]/[N:4]([H:9])[H:10])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[H:8]>>[C:1](=[C:3]([C:2]([H:15])([H:16])[H:17])[N:7]([N:4]([H:9])[H:10])[H:8])([N:5]([H:11])[H:12])[N:6]([H:13])[H:14],69.06641499997534
MR_1184_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:6][H:9])=[O:7])([N:4]([H:10])[H:11])[O:5][H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:5][H:8])=[O:7])([N:4]([H:10])[H:11])[O:6][H:9],36.05301250000281
MR_698721_0,[C:1]1([H:13])([H:14])[C:4]([N:7]([H:11])[H:12])=[C:5]([C:2]([H:15])([H:16])[H:17])[C:3]([N:6]([H:9])[H:10])=[N:8]1>>[C:1]1([H:13])([H:14])[C:4]2([N:7]([H:11])[H:12])[C:5]([C:2]([H:15])([H:16])[H:17])=[C:3]([N:6]([H:9])[H:10])[N:8]12,64.97887999998696
MR_398566_0,[C:1]([O:4][C:2]([N:3]([H:11])[H:12])=[O:7])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([O:5][H:8])([O:6][H:9])([O:7][C:2]([N:3]([H:11])[H:12])=[O:4])[H:10],39.77346000002626
MR_310229_1,[C:1]([N:2]([O:5][H:8])[O:6][H:9])(/[C:4](=[C:3](/[O:7][H:10])[H:13])[H:14])([H:11])[H:12]>>[C:1](=[C:4]([C:3]([N:2]([O:5][H:8])[O:6][H:9])([O:7][H:10])[H:13])[H:14])([H:11])[H:12],52.29522250005047
MR_530184_0,[C@:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:3]([O:6][H:10])[O:7][H:11])([C:5](=[O:9])[H:14])([O:8][H:12])[H:13]>>[C:1](=[C:4](\[C:2]([H:15])([H:16])[H:17])[C:3]([C:5](=[O:9])[H:14])([O:6][H:10])[O:7][H:11])(\[O:8][H:12])[H:13],62.621362499982354
MR_122023_0,[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:5](\[N:4]([H:10])[H:11])[H:14])([O:6][H:7])([H:12])[H:13]>>[C:1]([C:2]([N:3]([H:8])[H:9])(/[C:5](=[N:4]/[H:11])[H:14])[H:7])([O:6][H:10])([H:12])[H:13],57.5819100000075
MR_408201_1,[C:1]([C:5]([N:4]([C:7](=[C:6]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])[H:11])[O:9][H:10])=[C:8]([H:21])[H:22])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:6]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])/[C:7](=[N:4]/[O:9][H:10])[H:11])=[C:8]([H:21])[H:22])([H:12])([H:13])[H:14],65.03409999999022
MR_448164_1,[C:1](/[C:3]([N:4]([H:10])[H:11])=[C:6]([C:2](=[C:7](/[N:5]([H:12])[H:13])[H:15])\[O:8][H:9])/[H:14])([H:16])([H:17])[H:18]>>[C:1]([C:3]1([N:4]([H:10])[H:11])[C:6]([H:14])=[C:2]([O:8][H:9])[C:7]1([N:5]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18],39.53187250002984
MR_265407_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4](/[C:5]([N:6]([H:10])[H:11])=[N:7]/[H:12])=[O:8])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([C:3]([H:16])([H:17])[H:18])=[O:8])(/[C:5]([N:6]([H:10])[H:11])=[N:7]/[H:12])[H:9],73.15708749999146
MR_167278_0,[C:1]([C:2](=[O:7])[H:12])([C:4]1([O:8][H:10])[C:3]([H:13])([H:14])[O:5]1)([O:6][H:9])[H:11]>>[C:1]1([O:6][H:9])([H:11])[C:2]([O:7][H:10])([H:12])[C:3]([H:13])([H:14])[O:5][C:4]1=[O:8],47.31287250000278
MR_352004_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:10])[C:6]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[H:11])([O:7][H:9])[N:8]1[H:12]>>[C:1]([C:3]([H:13])([H:14])[H:15])(/[C:6]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[H:11])=[N:8]\[H:12])([O:7][H:9])[H:10],73.09998499999296
MR_706239_1,[C:1](/[C:2](=[N:6]/[H:9])[H:10])(/[N:3]=[N:4]/[H:7])=[N:5]\[H:8]>>[C:1]([C:2](/[N:3]=[N:4]/[H:7])=[N:6]\[H:9])(=[N:5]/[H:8])/[H:10],26.1171775000129
